US07375204B2
4-Benzyloxy-2-(methoxymethoxy)benzaldehyde
N,N-diisopropylethylamine (1.98 ml) and chloromethyl methyl ether (0.76 ml) were added to a solution of 4-benzyloxy-2-hydroxybenzaldehyde (2071 mg) in tetrahydrofuran (30 ml), and this reaction mixture was stirred and heated under reflux for 19 hours. N,N-diisopropylethylamine (2.7 ml) and chloromethyl methyl ether (1.04 ml) were further added, and the resulting mixture was stirred and heated under reflux for another 10 hours. After water was added, the reaction mixture was extracted with ethyl acetate, washed with a saturated aqueous ammonium chloride solution and saturated brine, dried over anhydrous magnesium sulfate, then filtered through silica gel and alumina. The filtrate was concentrated under reduced pressure to give the title compound (2470 mg). This compound was used in the following reaction without further purification.

reactant | N,N-diisopropylethylamine | 1.98 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 0.76 ml | COCCl | C2H5ClO
reactant | 4-benzyloxy-2-hydroxybenzaldehyde | 2071 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)O | C14H12O3
reactant | N,N-diisopropylethylamine | 2.7 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloromethyl methyl ether | 1.04 ml | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-Benzyloxy-2-(methoxymethoxy)benzaldehyde | 2470 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)OCOC | C16H16O4
